US04602027
Ethyl 5-methyl-2-styryl-4-oxazolecarboxylate (2.14 g) was dissolved in a mixture of dry tetrahydrofuran (10 ml) and dry ethyl ether (15 ml) and the solution was added dropwise to a suspension of lithiumaluminum hydride (0.34 g) in dry ethyl ether (20 ml) with ice-cooling and stirring. The mixture was further stirred under ice-cooling for an hour and water (2 ml) was added portionwise for decomposition. The precipitate was filtered off and the filtrate was concentrated to give 4-hydroxymethyl-5-methyl-2-styryloxazole as crystals; yield 1.28 g (71.5%). Recrystallization from acetone gave colorless prisms melting at 106°-107° C.

reactant | Ethyl 5-methyl-2-styryl-4-oxazolecarboxylate | 2.14 g | CC1=C(N=C(O1)C=CC1=CC=CC=C1)C(=O)OCC | C15H15NO3
reactant | lithiumaluminum hydride | 0.34 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 2 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
product | 4-hydroxymethyl-5-methyl-2-styryloxazole | OCC=1N=C(OC1C)C=CC1=CC=CC=C1 | C13H13NO2
